US05374772
A mixture of 1.68 g (0.01 mol) of 3,5-dihydroxybenzoic acid methyl ester, 3.4 mL (0.022 mol) of 3-bromopropylbenzene and 2.8 g (0.02 mol) of potassium carbonate in 50 mL of anhydrous DMF was stirred and heated at 100° for 18 hours. The solvent was removed at reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated to dryness and the residue was purified by chromatography on 150 g of silica gel using 10 % ethyl acetate-hexane to give 3.0 g of 3,5-bis(3-phenylpropoxy)benzoic acid methyl ester as an oil. The nmr and mass spectra were consistent with the structure.

reactant | 3,5-dihydroxybenzoic acid methyl ester | 0.01 mol, 1.68 g | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | 3-bromopropylbenzene | 0.022 mol, 3.4 mL | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | potassium carbonate | 0.02 mol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3,5-bis(3-phenylpropoxy)benzoic acid methyl ester | 3.0 g | COC(C1=CC(=CC(=C1)OCCCC1=CC=CC=C1)OCCCC1=CC=CC=C1)=O | C26H28O4
